US07723333B2
2-Isopropyl-5-phenyl-4-[(2-pyridin-3-ylethyl)amino]isothiazol-3(2H)-one 1,1-dioxide
The title compound was prepared from 4-chloro-2-isopropyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide and (2-pyridin-3-ylethyl)amine in a similar manner as described for Example 118. 1H NMR (500 MHz CDCl3): δ 1.59 (d, 6H), 2.59 (t, 2H), 3.17 (q, 2H), 4.37-4.45 (m, 1H), 5.47 (t, 1H), 7.06-7.09 (m, 1H), 7.14-7.17 (m, 1H), 7.46-7.55 (m, 5H), 8.07 (s, 1H), 8.44-8.46 (m, 1H); 13C NMR (125 MHz CDCl3): δ 20.38, 33.39, 44.78, 47.88, 107.76, 123.70, 125.15, 129.13, 130.20, 131.84, 133.02, 135.16, 136.13, 148.57, 150.06, 158.61; Mass Spectrum: M+H+ 372.

reactant | 4-chloro-2-isopropyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide | ClC=1C(N(S(C1C1=CC=CC=C1)(=O)=O)C(C)C)=O | C12H12ClNO3S
reactant | (2-pyridin-3-ylethyl)amine | N1=CC(=CC=C1)CCN | C7H10N2
product | 2-Isopropyl-5-phenyl-4-[(2-pyridin-3-ylethyl)amino]isothiazol-3(2H)-one 1,1-dioxide | C(C)(C)N1S(C(=C(C1=O)NCCC=1C=NC=CC1)C1=CC=CC=C1)(=O)=O | C19H21N3O3S
